US06943159B1
2-Methyl-4-oxo-3,4-dihydroquinazoline:
A solution of anthranilamide (13.6 g; 100 mmol) in acetic acid (100 ml) was refluxed for 60 h. The reaction mixture was evaporated to dryness, suspended in H2O, filtered and washed thoroughly with NaHCO3 until the filtrate had a pH of 8-8.5.

reactant | anthranilamide | 100 mmol, 13.6 g | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-Methyl-4-oxo-3,4-dihydroquinazoline | CC1=NC2=CC=CC=C2C(N1)=O | C9H8N2O
